US09359371B2
In DMF (10 mL) was dissolved 4-((3-chloro-4-methoxybenzyl)amino)-2-(5H-pyrrolo[3,4-b]pyridin-6(7H)yl)-5-pyrimidine formic acid (0.8 g, 1.94 mmol). The solution was cooled in an ice bath. HATU (1.11 g, 2.91 mmol) and DIPEA (0.37 g, 2.87 mmol) were added. After 20 min, trans-4-aminocyclohexanol (0.27 g, 2.3 mmol) was added in batches. The reaction was conducted overnight. LC-MS was used to monitor the reaction. The reaction mixture was poured into water (50 mL) and filtrated. The solid was recrystallized with acetone (20 mL) to give N-((trans)-4-hydroxycyclohexan-1-yl)-4-((3-chloro-4-methoxybenzyl)amino)-2-(5H-pyrrolo[3,4-b]pyridin-6(7H)yl)-5-pyrimidine formamide (300 mg, 30.3% yield).

reactant | 4-((3-chloro-4-methoxybenzyl)amino)-2-(5H-pyrrolo[3,4-b]pyridin-6(7H)yl)-5-pyrimidine formic acid | 1.94 mmol, 0.8 g | ClC=1C=C(CNC2=NC(=NC=C2C(=O)O)N2CC3=NC=CC=C3C2)C=CC1OC | C20H18ClN5O3
reactant | HATU | 2.91 mmol, 1.11 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 2.87 mmol, 0.37 g | CCN(C(C)C)C(C)C | C8H19N
reactant | trans-4-aminocyclohexanol | 2.3 mmol, 0.27 g | N[C@@H]1CC[C@H](CC1)O | C6H13NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | 50 mL | O | H2O
product | N-((trans)-4-hydroxycyclohexan-1-yl)-4-((3-chloro-4-methoxybenzyl)amino)-2-(5H-pyrrolo[3,4-b]pyridin-6(7H)yl)-5-pyrimidine formamide | 300 mg, 30.3% yield | O[C@@H]1CC[C@H](CC1)NC(=O)C=1C(=NC(=NC1)N1CC2=NC=CC=C2C1)NCC1=CC(=C(C=C1)OC)Cl | C26H29ClN6O3
